US08703953B2
To a solution of 2-((tert-butoxycarbonyl)amino)-3-cyclopentylpropanoic acid (730 mg, 2.84 mmol) in THF (7.5 mL) cooled to −10° C. was added N-methylmorpholine (0.312 mL, 2.84 mmol) followed by isobutyl chloroformate (0.373 mL, 2.84 mmol). The reaction mixture was then stirred for 5 min. The solid obtained was removed by filtration and washed with THF (5 mL). The filtrate was cooled to −10° C. and treated with NaBH4 (161 mg, 4.26 mmol) in water (5 mL) dropwise. The reaction mixture was stirred at −10° C. for 10 min and allowed to warm to room temperature and stirred for another 30 min. The reaction mixture was then quenched with cold water (5 mL). The aqueous layer extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine (20 mL), dried over sodium sulfate and concentrated under reduced pressure to afford a residue which was purified by column chromatography (pet ether: ethyl acetate) to afford tert-butyl 1-cyclopentyl-3-hydroxypropan-2-ylcarbamate (500 mg, 2.05 mmol, 72% yield). 1H NMR (400 MHz, DMSO-d6) δ 6.38 (m, 1 H), 4.51 (m, 1 H), 3.85-3.65 (m, 1 H), 3.42 (m, 1 H), 3.25 (m, 1 H), 3.8 (m, 1 H), 2.75 (m, 1 H), 1.85-1.65 (m, 4H), 1.6-1.25 (m, 12 H), 1.15 (m, 2 H).

reactant | 2-((tert-butoxycarbonyl)amino)-3-cyclopentylpropanoic acid | 2.84 mmol, 730 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1CCCC1 | C13H23NO4
reactant | N-methylmorpholine | 2.84 mmol, 0.312 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2.84 mmol, 0.373 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 4.26 mmol, 161 mg | [BH4-].[Na+]
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | tert-butyl 1-cyclopentyl-3-hydroxypropan-2-ylcarbamate | 2.05 mmol, 500 mg, 72% yield | C1(CCCC1)CC(CO)NC(OC(C)(C)C)=O | C13H25NO3
